US07291643B2
N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]-4-isopropylbenzenesulfonamide
The title compound was prepared according to general procedure for sulfonylation of 5-(4-aminophenyl)-1-methyl-1H-pyrrole-2-carbonitrile using 4-isopropyl-benzenesulfonyl chloride (120 mg, 0.55 mmol) to provide N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]4-isopropylbenzenesulfonamide (0.049 g).

reactant | 5-(4-aminophenyl)-1-methyl-1H-pyrrole-2-carbonitrile | NC1=CC=C(C=C1)C1=CC=C(N1C)C#N | C12H11N3
reactant | 4-isopropyl-benzenesulfonyl chloride | 0.55 mmol, 120 mg | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C9H11ClO2S
product | N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]4-isopropylbenzenesulfonamide | 0.049 g | C(#N)C1=CC=C(N1C)C1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C(C)C | C21H21N3O2S
